US08912169B2
Step 7: Synthesis of (racemic)-2-[(1S,3S,4S)-3,4-bis[(tert-butoxycarbonylamino)methyl]cyclohexyl]acetic acid
To a solution of (racemic)-tert-butyl N-[[(1S,2S,4S)-2-[(tert-butoxycarbonylamino)methyl]-4-(2-hydroxyethyl)cyclohexyl]methyl]carbamate (772 mg, 2 mmol) in acetonitrile (3 mL), carbon tetrachloride (3 mL) and water (4.5 mL) is added sodium periodate (1.28 g, 6 mmol) followed by RuCl3.H2O (21 mg, 0.1 mmol). The resulting mixture is stirred for 2 hr then diluted with EtOAc, washed with brine, dried over MgSO4 and concentrated. The residue is taken up in saturated sodium carbonate solution and extracted with EtOAc. The aqueous phase is acidified with HCl (2M aqueous) and extracted with EtOAc. The organic extract is washed with brine, dried over MgSO4 and concentrated. This residue is purified by silica chromatography (eluting with ethyl acetate) to give the title compound (394 mg) as a viscous oil. 1H NMR (DMSO-d6) δ 0.7-1.0 (m, 1H), 1.0-1.9 (m, 9H), 1.39 (s, 18H), 2.0-2.3 (m, 2H), 2.6-3.18 (m, 4H), 6.6-6.8 (bm, 2H).

reactant | (racemic)-tert-butyl N-[[(1S,2S,4S)-2-[(tert-butoxycarbonylamino)methyl]-4-(2-hydroxyethyl)cyclohexyl]methyl]carbamate | 2 mmol, 772 mg | C(C)(C)(C)OC(=O)NC[C@@H]1[C@H](CC[C@@H](C1)CCO)CNC(OC(C)(C)C)=O | C20H38N2O5
reactant | sodium periodate | 6 mmol, 1.28 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 4.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (racemic)-2-[(1S,3S,4S)-3,4-bis[(tert-butoxycarbonylamino)methyl]cyclohexyl]acetic acid | 394 mg | C(C)(C)(C)OC(=O)NC[C@H]1C[C@H](CC[C@@H]1CNC(=O)OC(C)(C)C)CC(=O)O | C20H36N2O6
